US04000143
Treatment of 4-methoxy-2'-[hydroxy(2-pyridyl)methyl]benzanilide with hydrogen iodide according to the procedure of Miller, et al., J. Org. Chem., 24, 1364 (1959 ) provides 2'-(2-pyridylmethyl)-p-anisanilide, m.p. 130.5° - 131.5° C. (corr.), from methanol.

reactant | 4-methoxy-2'-[hydroxy(2-pyridyl)methyl]benzanilide | COC1=CC=C(C(=O)NC2=C(C=CC=C2)C(C2=NC=CC=C2)O)C=C1 | C20H18N2O3
reactant | hydrogen iodide | I | HI
product | 2'-(2-pyridylmethyl)-p-anisanilide | N1=C(C=CC=C1)CC1=C(NC(C2=CC=C(C=C2)OC)=O)C=CC=C1 | C20H18N2O2
